Simple PZ
*SPICE Netlist generated by Advanced Sim server on 13/11/2002 5:03:28 PM

*Schematic Netlist:
G1 0 A IN 0 1
G2 0 B A 0 1
G3 0 OUT B 0 1
I1 0 IN 1 AC 1 0
L1 IN 0 1H
L2 A 0 1H
L3 B 0 1H
L4 OUT 0 1H
R1 IN 0 1.05e9
R2 A 0 8.55043e8
R3 B 0 3.224e7
R4 OUT 0 1.0259034e7

.SAVE 0 A B IN OUT I1[v] @L1[i] @L2[i] @L3[i] @L4[i] @R1[i] @R2[i] @R3[i] @R4[i]
.SAVE @G1[p] @G2[p] @G3[p] @I1[p] @L1[p] @L2[p] @L3[p] @L4[p] @R1[p] @R2[p] @R3[p]
.SAVE @R4[p]

*PLOT PZ -1 1 A=A

*Selected Circuit Analyses:
.PZ IN 0 OUT 0 CUR PZ

.END
